US07241785B2
To a mixture of methyl 4-hydroxy-5-oxo-5-phenylpentanoate (4.50 g), pyridine (1.80 ml) and tetrahydrofuran (30 ml) was slowly added phenyl chlorocarbonate (2.80 ml) at 0° C. and the mixture was stirred at room temperature for 2 hrs. Water was poured into the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was dissolved in acetic acid (30 ml), ammonium acetate (7.79 g) was added and the mixture was refluxed for 3 hrs. The reaction mixture was concentrated and the obtained residue was dissolved in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and then saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography, and methyl 3-(2-oxo-4-phenyloxazolin-5-yl)propionate was obtained as colorless crystals (3.57 g, yield 71%) from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 104–105° C.

reactant | methyl 4-hydroxy-5-oxo-5-phenylpentanoate | 4.50 g | OC(CCC(=O)OC)C(C1=CC=CC=C1)=O | C12H14O4
reactant | pyridine | 1.80 ml | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | phenyl chlorocarbonate | 2.80 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
solvent | Water | O | H2O
product | methyl 3-(2-oxo-4-phenyloxazolin-5-yl)propionate | O=C1OC(C(=N1)C1=CC=CC=C1)CCC(=O)OC | C13H13NO4
